US04049727
A mixture containing 29.4 grams (0.2 mole), of ortho-dichlorobenzene, 50 grams (0.2 moles) of hexachloropropylene and 2.5 grams of ferric chloride in 250 milliliters of perchloroethylene was heated and stirred by the process of Example I for about 4 hours at reflux (125° C.). The reaction mixture was then washed with concentrated hydrochloric acid, then water and distilled to give a 48.7% yield of hexachloroindene. The product was confirmed by infrared and NMR spectra analysis as structured.

reactant | ortho-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | hexachloropropylene | 0.2 moles, 50 grams | ClC(C(=C(Cl)Cl)Cl)(Cl)Cl | C3Cl6
reactant | perchloroethylene | 250 milliliters | ClC(=C(Cl)Cl)Cl | C2Cl4
product | hexachloroindene | 48.7% yield | ClC1=C(C(=C2C(=C(C(C2=C1)Cl)Cl)Cl)Cl)Cl | C9H2Cl6
